US05874430
To a stirred, cooled (-50° C.) solution of 0.92 g (4.0 mmol) of 4'-chloro-2'-fluoro-2,2-dimethylpropionanilide in 10 mL of THF was added 2.5 mL (4.2 mmol) of 1.7M t-BuLi in pentane over 5 min. The solution was stirred for 5 min. and treated with 1.0 mL (8.4 mmol) of ethyl trifluoroacetate over 2 min. The reaction was warmed to ambient temperature, stirred 15 min., and quenched with 1N aqueous citric acid. The mixture was extracted with ether, and the organic extract was washed sequentially with water then brine. The solution was dried(MgSO4) and concentrated under reduced pressure to give an oil. The crude amide was chromatographed on silica gel (elution with 3:1 hexanes-ether followed by 1:1 hexanes-ether) to give 570 mg (43%) of 2'-(trimethylacetamido)-5'-chloro-3'-fluoro-2,2,2-trifluoroacetophenone as an off-white solid. 1H NMR(300 MHz, CDCl3) δ8.68(s, 1H); 7.45-7.47(m, 1H); 7.08(dd, 1H, J=9.5, 2.6 Hz); 1.3(s, 9H). High resolution mass spec: calculated for C13H13NO2ClF4 (M+H)+ : 326.0571, found: 326.0579.

reactant | 4'-chloro-2'-fluoro-2,2-dimethylpropionanilide | 4.0 mmol, 0.92 g | ClC1=CC(=C(NC(C(C)(C)C)=O)C=C1)F | C11H13ClFNO
reactant | t-BuLi | 4.2 mmol, 1.7M, 2.5 mL | [Li]C(C)(C)C
reactant | ethyl trifluoroacetate | 8.4 mmol, 1.0 mL | FC(C(=O)OCC)(F)F | C4H5F3O2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | pentane | CCCCC | C5H12
product | 2'-(trimethylacetamido)-5'-chloro-3'-fluoro-2,2,2-trifluoroacetophenone | 570 mg, 43% | CC(C(=O)NC1=C(C=C(C=C1F)Cl)C(C(F)(F)F)=O)(C)C | C13H12ClF4NO2
